US06531502B1
4-(2-carboxyethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid suspended in ethylene glycol (5 mL) was heated in a sealed tube in a pre-heated oil bath at 200° C. for 2 hours. The reaction mixture was cooled to 90° C. and potassium hydroxide (2 pellets) were added. The mixture was then heated at 90° C. for 30 minutes, after which time it was cooled, poured into water, and acidified with 2 N hydrochloric acid to pH 2. The precipitate that formed was filtered, washed with water, and dried in a vacuum oven overnight to give 77 mg (29%) of 3-[2-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid.

reactant | 4-(2-carboxyethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)Cl)=O)C(=O)O)C | C18H15ClN2O5
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethylene glycol | 5 mL | C(CO)O | C2H6O2
product | 3-[2-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 77 mg, 29% | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C(C1CCC(=O)O)C | C17H15ClN2O3
